US08012976B2
Ethyl 2-(4-(dimethylcarbamoyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
Compound (E)-N,N-dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide (1.36 g, 4.4 mmol), 4-fluorobenzaldehyde (600 mg, 4.84 mmol), sodium (405 mg, 17.6 mmol), ethanol (40 mL) and ethyl propionate (66 mL) were added and the mixture was stirred at room temperature overnight. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=20:1 to 5:1) to give the title compound as a solid (490 mg, yield 22%). LC-MS (ESI) m/z: 461(M+1)+.

reactant | (E)-N,N-dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide | 4.4 mmol, 1.36 g | CN(C(C1=CC=C(C=C1)/C=N/C1=C2COC(C2=CC=C1)=O)=O)C | C18H16N2O3
reactant | 4-fluorobenzaldehyde | 4.84 mmol, 600 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium | 17.6 mmol, 405 mg | [Na] | Na
reactant | ethyl propionate | 66 mL | C(CC)(=O)OCC | C5H10O2
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 2-(4-(dimethylcarbamoyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 490 mg, yield 22% | CN(C(=O)C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)F)=O)C(=O)OCC)C | C27H25FN2O4
